eerste.oregano
*----------------------------------------------
*	GNUCAP - NETLIST
.options OUT=120 
*------------- Models -------------------------
*------------- Circuit Description-------------
V_V2 1 0 dc 0.0 ac 0.0 PULSE 0.0 1.0 .001 .00 0.0 0.0 0.0 
R_R4 2 0 1k 
R_R3 1 2 1k 
C_C1 2 0 1u IC=0 

*----------------------------------------------
.print tran  v(1) v(2)
.tran 0 0.005 5e-05
.print op v(nodes)
.op
.end
